** sch_path: /var/home/bleroux/Documents/stage_IEMN/analog-asic-design/designs/inverter.sch
**.subckt inverter
XM1 Vout net1 Vdd Vdd sg13_lv_pmos w=1.0u l=0.45u ng=1
XM2 Vout net1 0 0 sg13_lv_nmos w=0.15u l=0.13u ng=1
V1 net1 0 pulse(0 1.8 1ns 1ns 1ns 5ns 10ns)
V2 Vdd 0 1.8
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt



.control

tran 50p 20n
*op
save all
write inverter-tr.raw

dc V1 0 1.8 1m
let gain = -deriv(Vout)/12
save all
write inverter-dc-sweep.raw

.endc


**** end user architecture code
**.ends
.end
